US07919504B2
To a 100 mL round bottom flask was added 5-(phthalazine-5yl)-1,3,4-thiadiazol-2-amine (0.25 g, 1.1 mmol), di-tert-butylpyrocarbonate (0.48 g, 2.2 mmol), DMF (50 mL) and 4-(dimethylamino)pyridine (0.002 g, 0.02 mmol). The mixture was heated at 60° C. for 2 hours. EtOAc (200 mL) was added and the mixture was washed with saturated aqueous ammonium chloride. The organic layer was dried over sodium sulfate and the solution was evaporated to a yellow solid. The product was recovered by filtration and washing with EtOAc to provide tert-butyl 5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-ylcarbamate (0.14 g, 39%). LCMS (M+H) 330.2 calc. for C15H16N5O2S 330.1. 1H NMR (400 MHz, CDCl3): δ ppm 1.54 (s, 9H) 8.23 (d, J=8.41 Hz, 1H) 8.46 (s, 1H) 8.53 (d, 1H) 9.63 (d, J=16.24 Hz, 2H)). NH not detected.

reactant | 5-(phthalazine-5yl)-1,3,4-thiadiazol-2-amine | 1.1 mmol, 0.25 g | C1=NN=CC2=C(C=CC=C12)C1=NN=C(S1)N | C10H7N5S
reactant | di-tert-butylpyrocarbonate | 2.2 mmol, 0.48 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.02 mmol, 0.002 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-ylcarbamate | 0.14 g, 39% | C1=NN=CC2=C(C=CC=C12)C1=NN=C(S1)NC(OC(C)(C)C)=O | C15H15N5O2S
